US08633173B2
To a suspension of N-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide (0.50 g, 1.7 mmol) and potassium carbonate (0.28 g, 2.0 mmol) in acetone (10 mL) was added methyl iodide (0.12 mL, 2.0 mmol). The mixture was stirred at room temperature for 18 hours under an atmosphere of nitrogen then diluted with dichloromethane (20 mL), filtered through a plug of diatomaceous earth, rinsed with dichloromethane and evaporated. The material was subjected to high vacuum for 18 hours. N-Methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide was isolated as a yellow solid (0.50 g, 95%) and was used without further purification. 1H NMR (400 MHz, CDCl3, δ, ppm): 7.83 (d, J=7.9 Hz, 2H), 7.39 (d, J=7.8 Hz, 2H), 3.34 (s, 3H), 2.82 (s, 3H), 1.34 (s, 12H). MS=312 (MH)+.

reactant | N-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 1.7 mmol, 0.50 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | potassium carbonate | 2.0 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.0 mmol, 0.12 mL | CI | CH3I
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Methyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | CN(S(=O)(=O)C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO4S
